US05126362
2.3 g of the α-(3-furyl)aminoacetonitrile and 4.1 g of triethylamine were dissolved in 100 ml of THF. Then 3.6 g of nicotinic acid chloride hydrochloride was added thereto under ice-cooling. The obtained mixture was stirred for one hour and then at room temperature for six hours. After filtering the solid matter thus formed, the solvent was distilled off. The obtained oily substance was purified by column chromatography to thereby give 2.7 g of α-(nicotinylamino)-(3-furyl) acetonitrile in the form of crystals.

reactant | α-(3-furyl)aminoacetonitrile | 2.3 g | O1C=C(C=C1)NCC#N | C6H6N2O
reactant | triethylamine | 4.1 g | C(C)N(CC)CC | C6H15N
reactant | nicotinic acid chloride hydrochloride | 3.6 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | α-(nicotinylamino)-(3-furyl) acetonitrile | 2.7 g | C(C1=CN=CC=C1)NC(C#N)C1=COC=C1 | C12H11N3O
